US06313118B1
(R)-N-[5-Methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-chlorobenzamide
To a solution of (R)-2-amino-5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (52 mg, 0.20 mmol) and triethylamine (1 mL, 7.7 mmol) in methylene chloride (10 mL) was added a solution of 4-chlorobenzoyl chloride (50 mg, 0.29 mmol) in methylene chloride (10 mL) and the reaction was stirred at 0° C. for 30 min. The stirring was continued for another 2 h at ambient temperature and then the solvent was evaporated in vacuo. The remains were purified on a silica gel column using ethyl acetate containing triethylamine (7.5%) as the eluent to give 50 mg (63% yield) of the title compound as white crystals: mp 210-212° C.; EIMS (70 eV) m/z (relative intensity) 397 (28, M+).

reactant | (R)-2-amino-5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.20 mmol, 52 mg | N[C@H]1CC2=C(C=CC(=C2CC1)C)N1CCN(CC1)C | C16H25N3
reactant | triethylamine | 7.7 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.29 mmol, 50 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[5-Methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-chlorobenzamide | 50 mg, 63% yield | CC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)Cl)=O | C23H28ClN3O
